US07138529B2
Step 1: Preparation of 3-methyl-2-phenylvaleryl chloride
To a stirred solution of 3-methyl-2-phenylvaleric acid (1.23 g; 6.2 mmol) and a catalytic amount of dry dimethylformamide (ca. 20 μL) in 5 mL of dry methylene chloride under nitrogen at room temperature was added oxalyl chloride (4.8 mL of 2.0 M solution in methylene chloride) dropwise. After 45 minutes, the mixture was concentrated in vacuo and used immediately for Step 2.

reactant | 3-methyl-2-phenylvaleric acid | 6.2 mmol, 1.23 g | CC(C(C(=O)O)C1=CC=CC=C1)CC | C12H16O2
reactant | dimethylformamide | ca. 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 2.0 M, 4.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-2-phenylvaleryl chloride | CC(C(C(=O)Cl)C1=CC=CC=C1)CC | C12H15ClO
